US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(2-pyridyl)-2-propen-1-one
The title compound was prepared from a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (100 mg, 0.316 mmol) and 2-pyridine carboxaldehyde (30 ul, 0.316 mmol) similar to Example 15 and isolated as a yellow solid (13 mg, 10%) 1H NMR (CDCl3): 8.68-8.65 (m, 1H), 7.79 (d, J=15.6 Hz, 1H), 7.72 (dd, J=1.7, 7.7 Hz, 1H), 7.64 (d, J=15.6 Hz, 1H), 7.53 (d, J=7.8 Hz, 1H), 7.31-7.28 (m, 1H), 7.25 (s, 1H), 7.12 (dd, J=3.2, 8.9 Hz, 1H), 6.96 (d, J=9.3 Hz, 1H), 4.44-4.33 (m, 4H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.316 mmol, 100 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | 2-pyridine carboxaldehyde | 0.316 mmol, 30 ul | N1=C(C=CC=C1)C=O | C6H5NO
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(2-pyridyl)-2-propen-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=NC=CC=C1)=O)(F)F | C18H13F6NO3
